US09024032B2
To a semi-suspension of 1-(3-bromophenyl)-5-[(4-methoxybenzyl)oxy]-4-oxo-1,4-dihydropyridine-2-carbaldehyde (500 mg, 1.21 mmol) in THF (5 mL) at 0° C. was added (trifluoromethyl)trimethylsilane solution (5.3 mL of 0.5 mL solution in THF) followed by tetrabutylammonium fluoride solution (0.1 mL of a 1 M solution in THF). The reaction mixture was stirred at 0° C. for 1 h and then quenched by adding water. The quenched reaction mixture was then diluted with dichloromethane, washed with brine (1×), dried over Na2SO4, filtered, and concentrated in vacuo. Purification by flash chromatography (24 g silica gel, linear gradient of 0 to 5% methanol in dichloromethane) afforded 1-(3-bromophenyl)-5-[(4-methoxybenzyl)oxy]-2-(2,2,2-trifluoro-1-hydroxyethyl)pyridin-4(1H)-one.

reactant | 1-(3-bromophenyl)-5-[(4-methoxybenzyl)oxy]-4-oxo-1,4-dihydropyridine-2-carbaldehyde | 1.21 mmol, 500 mg | BrC=1C=C(C=CC1)N1C(=CC(C(=C1)OCC1=CC=C(C=C1)OC)=O)C=O | C20H16BrNO4
reactant | (trifluoromethyl)trimethylsilane | 5.3 mL | FC(F)(F)[Si](C)(C)C | C4H9F3Si
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 1-(3-bromophenyl)-5-[(4-methoxybenzyl)oxy]-2-(2,2,2-trifluoro-1-hydroxyethyl)pyridin-4(1H)-one | BrC=1C=C(C=CC1)N1C(=CC(C(=C1)OCC1=CC=C(C=C1)OC)=O)C(C(F)(F)F)O | C21H17BrF3NO4
